US07732604B2
HATU (82 mg, 0.22 mmol) was added to a mixture of 4-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)benzoic acid (75 mg, 0.20 mmol), N1,N1,N2-trimethylethane-1,2-diamine (22 mg, 0.22 mmol) and triethylamine (0.060 mL, 0.43 mmol) in DMF (2.0 mL). After stirring for 18 hours, the reaction was partitioned between dichloromethane:ethanol (9:1) and water. The organic layer was separated, dried over Na2SO4, filtered and concentrated by rotary evaporation to afford 108 mg of crude material. The material was purified by pre-HPLC to give N-(2-(dimethylamino)ethyl)-N-methyl-4-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)benzamide (54 mg, yield 48%).

reactant | HATU | 0.22 mmol, 82 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)benzoic acid | 0.20 mmol, 75 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC2=NC=C(N=C21)C2=CC=C(C(=O)O)C=C2 | C21H14N6O2
reactant | N1,N1,N2-trimethylethane-1,2-diamine | 0.22 mmol, 22 mg | CN(CCNC)C | C5H14N2
reactant | triethylamine | 0.43 mmol, 0.060 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | N-(2-(dimethylamino)ethyl)-N-methyl-4-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)benzamide | 54 mg, yield 48% | CN(CCN(C(C1=CC=C(C=C1)C=1N=C2C(=NC1)N=NN2CC=2C=C1C=CC=NC1=CC2)=O)C)C | C26H26N8O
